US06310102B1
N-Methyl-N-(3-buten-1-yl)benzamide
Under a nitrogen atmosphere, a solution of N-methyl-3-buten-1-amine (6.86 g, 80.6 mmol) in dichloromethane (100 mL) was cooled to 0° C., and triethylamine (17.93 g, 177.2 mmol) and 4-(N,N-dimethylamino)pyridine (207 mg) were added. A solution of benzoyl chloride (11.89 g, 84.6 mmol) in dichloromethane (60 mL) was added dropwise via addition funnel over 1 h at 0-5° C. The resulting turbid mixture was stirred 3 h at 0° C. The mixture was then washed in succession with 1 M HCl solution (3×75 mL), 5% NaHCO3 solution (3×100 mL), and water (100 mL). The organic phase was dried (Na2SO4), filtered, and concentrated on a rotary evaporator to a yellow oil (12.66 g). Vacuum distillation using a 6 in. Vigreaux column and a short path distillation apparatus afforded 8.58 g (56.3%) of a colorless oil, bp 100-103° C. at 0.1 mm Hg.

reactant | N-methyl-3-buten-1-amine | 80.6 mmol, 6.86 g | CNCCC=C | C5H11N
reactant | triethylamine | 177.2 mmol, 17.93 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 84.6 mmol, 11.89 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 207 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | N-Methyl-N-(3-buten-1-yl)benzamide | 8.58 g, 56.3% | CN(C(C1=CC=CC=C1)=O)CCC=C | C12H15NO
